US08293909B2
Ethyl 6-bromo-2-(4-fluorophenyl)imidazo[1,2-a]pyridine-3-carboxylate (394 mg, 1.09 mmol) was dissolved into MeOH (10 mL) and THF (10 mL) and then 1M aqueous NaOH (7.5 mL, 7.50 mmol) was added and the reaction was heated at 70° C. for 1 h. The reaction was treated with aqueous 1M HCl (8 mL) (white prec. formed), cooled to rt, diluted with water (30 ml) and filtered to collect the precipitate (rinsed with water). The solid was dried overnight under vacuum to yield 6-bromo-2-(4-fluorophenyl)imidazo[1,2-a]pyridine-3-carboxylic acid (290 mg, 0.87 mmol, 80% yield) as a white solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 13.40 (br s, 1H), 9.53 (s, 1H), 7.86 (d, J=8.6 Hz, 1H), 7.84 (d, J=8.6 Hz, 1H), 7.78 (d, J=9.5 Hz, 1H), 7.73 (dd, J=9.5, 1.5 Hz, 1H), 7.30 (d, J=8.9 Hz, 1H), 7.28 (d, J=8.9 Hz, 1H). LC-MS retention time 0.94 min; m/z 334, 336 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna 10 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 10% acetonitrile/90% H2O/0.1% TFA and solvent B was 10% H2O/90% acetonitrile/0.1% TFA. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | Ethyl 6-bromo-2-(4-fluorophenyl)imidazo[1,2-a]pyridine-3-carboxylate | 1.09 mmol, 394 mg | BrC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)F)C(=O)OCC | C16H12BrFN2O2
reactant | MeOH | 10 mL | CO | CH4O
reactant | NaOH | 7.50 mmol, 1M, 7.5 mL | [OH-].[Na+]
reactant | HCl | 1M, 8 mL | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-bromo-2-(4-fluorophenyl)imidazo[1,2-a]pyridine-3-carboxylic acid | 0.87 mmol, 290 mg, 80% yield | BrC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)F)C(=O)O | C14H8BrFN2O2
